US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic Acid (2-dimethylaminoethyl)amide
5-Bromo-1,3-dihydroindol-2-one (46 mg, 0.22 mmol) was condensed with 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide (65 mg) to give 60 mg (55%) of the title compound as a yellow solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.22 mmol, 46 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide | 65 mg | CN(CCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)C)C | C17H21N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic Acid (2-dimethylaminoethyl)amide | 60 mg, 55% | CN(CCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=C1C(NC2=CC=C(C=C12)Br)=O)C)C | C25H25BrN4O2
